US05688817
(d) Allyl 2-hydroxy-4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoate
In a manner similar to Example 1(d), by reaction of 2.4 g (10.5 mmol) of 3-tert-butyl-4-methoxybenzoyl chloride with 2.2 g (10.5 mmol) of allyl 4-hydroxymethyl-2-hydroxybenzoate, 2.5 g (61%) of the expected allyl ester are obtained in the form of a slightly yellow oil.

reactant | 3-tert-butyl-4-methoxybenzoyl chloride | 10.5 mmol, 2.4 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1OC | C12H15ClO2
reactant | allyl 4-hydroxymethyl-2-hydroxybenzoate | 10.5 mmol, 2.2 g | OCC1=CC(=C(C(=O)OCC=C)C=C1)O | C11H12O4
product | Allyl 2-hydroxy-4-(3-tert-butyl-4-methoxybenzoyloxymethyl)benzoate | OC1=C(C(=O)OCC=C)C=CC(=C1)COC(C1=CC(=C(C=C1)OC)C(C)(C)C)=O | C23H26O6
